US06441176B1
combining 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid and thionyl chloride in toluene to form 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid chloride; and

reactant | 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C=NN1C1=C2C=CC=NC2=CC=C1)C(=O)O | C16H13N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid chloride | C1(CC1)C1=C(C=NN1C1=C2C=CC=NC2=CC=C1)C(=O)Cl | C16H12ClN3O
